US09169254B2
A 2 M solution of sodium methoxide in methanol (4 ml, 8 mmol) was added to a solution of ethyl 2-[N-(4-bromo-3,5-dimethyl-phenyl)-N-sulfamoyl-amino]-2-methyl-propanoate (100 mg, 0.254 mmol) in methanol (12 ml), and the mixture was irradiated with microwaves at 65° C. for 10 minutes. The reaction mixture was diluted with ethyl acetate, and the organic layer was sequentially washed with water and saturated brine and concentrated under reduced pressure to give 5-(4-bromo-3,5-dimethyl-phenyl)-4,4-dimethyl-1,1-dioxo-1λ6-[1,2,5]thiadiazolidin-3-one (80 mg, 90%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | ethyl 2-[N-(4-bromo-3,5-dimethyl-phenyl)-N-sulfamoyl-amino]-2-methyl-propanoate | 0.254 mmol, 100 mg | BrC1=C(C=C(C=C1C)N(S(N)(=O)=O)C(C(=O)OCC)(C)C)C | C14H21BrN2O4S
solvent | methanol | 12 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 8 mmol, 4 ml | CO | CH4O
product | 5-(4-bromo-3,5-dimethyl-phenyl)-4,4-dimethyl-1,1-dioxo-1λ6-[1,2,5]thiadiazolidin-3-one | 80 mg, 90% | BrC1=C(C=C(C=C1C)N1C(C(NS1(=O)=O)=O)(C)C)C | C12H15BrN2O3S
